US07259266B2
Step 2: Preparation of ethyl 6-acetyl-2-(trifluoromethyl)-2H-chromene-3-carboxylate
A 500 mL three neck round bottom flask was fitted with stir bar, thermocouple and heating mantle, condenser, and nitrogen inlet and charged with dichloromethane (150 mL), ethyl 2-trifluoromethyl-2H-chromene-3-carboxylate (14.94 g, 54.882 mmole), and AlCl3 (18.29 g, 137.21 mmole). With stirring, the reaction was chilled to 0° C. followed by addition of acetyl chloride (5.85 mL, 6.46 g, 82.32 mmole). The reaction was stirred at RT for three days and then at reflux for six days. The reaction was poured over ice and was extracted with dichloromethane. The organic phase was dried over MgSO4, filtered and concentrated in vacuo to yield a solid. This solid was triturated with hexanes to provide a slurry. Vacuum filtration of the slurry yielded the title compound as a white solid. (11.78 g, 68.3%): mp 101-103° C. 1H NMR (acetone-d6/300 MHz) 8.14(s, 1H), 8.04 (d d, 1H, J=8.7, 2.2 Hz), 7.98(s, 1H), 7.13 (d, 1H, J=8.6 Hz), 5.95 (q, 1H, J=6.8 Hz), 4.38-4.23 (m, 2 H), 2.57(s, 3H), 1.33(t, 3H, J=7.0 Hz). GCMS m/z 314 (M+).

reactant | ethyl 2-trifluoromethyl-2H-chromene-3-carboxylate | 54.882 mmole, 14.94 g | FC(C1OC2=CC=CC=C2C=C1C(=O)OCC)(F)F | C13H11F3O3
reactant | AlCl3 | 137.21 mmole, 18.29 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | acetyl chloride | 82.32 mmole, 5.85 mL, 6.46 g | C(C)(=O)Cl | C2H3ClO
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | ethyl 6-acetyl-2-(trifluoromethyl)-2H-chromene-3-carboxylate | C(C)(=O)C=1C=C2C=C(C(OC2=CC1)C(F)(F)F)C(=O)OCC | C15H13F3O4
